US06921763B2
3-Iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.52 g, 2.0 mmol), ethyl 4-hydroxycyclohexanecarboxylate (0.806 mL, 5.0 mmol, triphenylphosphine (1.05 g, 4.0 mmol), diethyl azodicarboxylate (0.628 mL, 4.0 mmol) were suspended in tetrahydrofuran (15 mL), and the mixture was stirred at ambient temperature under a gentle flow of nitrogen for 48 h. The mixture was diluted with water (50 mL), and extracted with ethyl acetate (3×50 mL). The organic fractions were combined, dried over magnesium sulfate, filtered, and concentrated. The residue was partially purified by flash column chromatography (100% ethyl acetate) to afford ethyl 4-(4-amino-5-iodo-7H-pyrrolo[3,4-d]pyrimidin-7-yl)-1-cyclohexanecarboxylate as a mixture of cis- and trans-diastereomers, along with triphenylphosphine oxide. Repurification of the mixture by flash column chromatography on silica gel deactivated with triethylamine (0.5% methanol/dichloromethane as eluant) afforded the desired cis-ethyl 4-(4-amino-5-iodo-7H-pyrrolo[3,4-d]pyrimidin-7-yl)-1-cyclohexanecarboxylate as a yellow solid (0.260 g, 0.625 mmol): RP-HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a 5μ Hypersil HS C18, 250×4.6 mm column) Rt 9.55 min; MS (MH)+ 416.

reactant | 3-Iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 2.0 mmol, 0.52 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | ethyl 4-hydroxycyclohexanecarboxylate | OC1CCC(CC1)C(=O)OCC | C9H16O3
reactant | triphenylphosphine | 4.0 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.0 mmol, 0.628 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | ethyl 4-(4-amino-5-iodo-7H-pyrrolo[3,4-d]pyrimidin-7-yl)-1-cyclohexanecarboxylate | NC=1C2=C(N=CN1)C(N=C2I)C2CCC(CC2)C(=O)OCC | C15H19IN4O2
